US05232923
Ethyl 3,4-diacetoxyphenylpropionate and 1-aminoadamantane were used to obtain N-Adamantyl-3,4-dihydroxyphenylpropionamide by carrying out the same procedures as described in Example 1.

reactant | Ethyl 3,4-diacetoxyphenylpropionate | C(C)(=O)OC=1C=C(C=CC1OC(C)=O)C(C(=O)OCC)C | C15H18O6
reactant | 1-aminoadamantane | NC12CC3CC(CC(C1)C3)C2 | C10H17N
product | N-Adamantyl-3,4-dihydroxyphenylpropionamide | C12(CC3CC(CC(C1)C3)C2)NC(C(C)C2=CC(=C(C=C2)O)O)=O | C19H25NO3
